US04431661
In the manner of Example 8, 5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one, dimethyl acetal, can be reacted with cyclopropylmethyl bromide and sodium carbonate in toluene to give 3-cyclopropylmethyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one, dimethyl acetal.

reactant | 5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one | COC=1C=C(C=CC1)C12CNCC2CC1=O | C13H15NO2
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropylmethyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one | C1(CC1)CN1CC2CC(C2(C1)C1=CC(=CC=C1)OC)=O | C17H21NO2
